US06706709B2
3-[5-(2-Morpholin-4-yl-ethoxy)-1H-indol-2-ylmethylene]-6-phenyl-1,3-dihydro-indol-2-one
A mixture of 6-phenyl-2-oxindole (44 mg, 0.21 mmol), 5-(2-morpholin-4-yl-ethoxy)-1H-indole-2-carbaldehyde (58 mg, 0.21 mmol) and piperidine (0.1 mL) in ethanol (1 mL) was heated at 100° C. for 2 hours. The precipitate was collected by vacuum filtration, washed with ethanol and dried to give 70 mg (71%) of the title compound as an orange solid.

reactant | 6-phenyl-2-oxindole | 0.21 mmol, 44 mg | C1(=CC=CC=C1)C1=CC=C2CC(NC2=C1)=O | C14H11NO
reactant | 5-(2-morpholin-4-yl-ethoxy)-1H-indole-2-carbaldehyde | 0.21 mmol, 58 mg | N1(CCOCC1)CCOC=1C=C2C=C(NC2=CC1)C=O | C15H18N2O3
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-[5-(2-Morpholin-4-yl-ethoxy)-1H-indol-2-ylmethylene]-6-phenyl-1,3-dihydro-indol-2-one | 70 mg, 71% | N1(CCOCC1)CCOC=1C=C2C=C(NC2=CC1)C=C1C(NC2=CC(=CC=C12)C1=CC=CC=C1)=O | C29H27N3O3
